US08334305B2
3-[2-(1-Cyclopropanesulfonyl-piperidin-4-yl)-ethoxy]-N-(5-hydroxymethyl-adamantan-2-yl)benzamide
Prepared from 3-[2-(1-cyclopropanesulfonyl-piperidin-4-yl)-ethoxy]-benzoic acid and 4-amino-1-hydroxymethyladamantane to give the title compound as a mixture of two isomers.

reactant | 3-[2-(1-cyclopropanesulfonyl-piperidin-4-yl)-ethoxy]-benzoic acid | C1(CC1)S(=O)(=O)N1CCC(CC1)CCOC=1C=C(C(=O)O)C=CC1 | C17H23NO5S
reactant | 4-amino-1-hydroxymethyladamantane | NC1C2CC3(CC(CC1C3)C2)CO | C11H19NO
product | 3-[2-(1-Cyclopropanesulfonyl-piperidin-4-yl)-ethoxy]-N-(5-hydroxymethyl-adamantan-2-yl)benzamide | C1(CC1)S(=O)(=O)N1CCC(CC1)CCOC=1C=C(C(=O)NC2C3CC4CC(CC2C4)(C3)CO)C=CC1 | C28H40N2O5S
